US05036075
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (100 g), triethylamine (50 cc) and 4-(4-fluorophenyl) 1,2,3,6-tetrahydropyridine (77.9 in toluene (950 cc). The mixture is heated for 7 hours at boiling point, then cooled to a temperature of about 20° C. Stirring is continued for 8 hours at this temperature. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with ethyl acetate as eluant, 2-{3-[4-(4-fluorophenyl)-1,2,3,6-tetrahydro-l-pyridyl]propyl}-naphtho[1,8-cd]isothiazole 1,1-dioxide (105.4 g) is obtained in the form of a brown oil [Rf=0.8; thin-layer chromatography on silica gel; eluant: ethyl acetate]. This oil is converted to the hydrochloride, m.p. 224° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 100 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 50 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(4-fluorophenyl) 1,2,3,6-tetrahydropyridine | FC1=CC=C(C=C1)C=1CCNCC1 | C11H12FN
solvent | toluene | 950 cc | C1(=CC=CC=C1)C | C7H8
product | 2-{3-[4-(4-fluorophenyl)-1,2,3,6-tetrahydro-l-pyridyl]propyl}-naphtho[1,8-cd]isothiazole 1,1-dioxide | 105.4 g | FC1=CC=C(C=C1)C=1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C24H23FN2O2S
